US05292937
To a solution of sodium methoxide prepared by dissolving 5.75 grams (0.25 mole) of sodium in 375 milliliters of anhydrous methanol was added 59.8 grams (0.25 mole) of diethyl bromomalonate in one portion and the resulting mixture heated under reflux for 4 hours. The mixture was freed of methanol solvent under reduced pressure and the residue taken up in ethyl ether and filtered to remove by-product solids. The filtrate was freed of ether under reduced pressure and the residue vacuum distilled In a short-path system to give 6.49 grams (0.03 mole) of dimethyl dimethoxymalonate boiling over a range of 100° C.-125° C. at 1.4-1.8 Mm of Hg. NMR analysis of the product indicated the following:

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.25 mole, 5.75 grams | [Na] | Na
reactant | diethyl bromomalonate | 0.25 mole, 59.8 grams | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | methanol | 375 milliliters | CO | CH4O
solvent | ethyl ether | C(C)OCC | C4H10O
product | dimethyl dimethoxymalonate | 0.03 mole, 6.49 grams | COC(C(=O)OC)(C(=O)OC)OC | C7H12O6
